US04626538
This compound was then converted to N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]cyclobutanecarboxamide, mp 155°-157° C., by the procedure of Example 1 and further alkylated by the procedure of Example 6, using methyl iodide to give 8.32 g of N-[3-[3-(dimethylamino)1-oxo-2-propenyl]phenyl]-N-methylcyclobutanecarboxamide, mp 117°-119° C.

reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]cyclobutanecarboxamide | CN(C=CC(=O)C=1C=C(C=CC1)NC(=O)C1CCC1)C | C16H20N2O2
reactant | methyl iodide | CI | CH3I
product | N-[3-[3-(dimethylamino)1-oxo-2-propenyl]phenyl]-N-methylcyclobutanecarboxamide | 8.32 g | CN(C=CC(=O)C=1C=C(C=CC1)N(C(=O)C1CCC1)C)C | C17H22N2O2
